US04960787
A solution of 1.0 g of N-(N'-methylcarbamoyl)-N-benzyloxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine in 50 ml of ethyl acetate is hydrogenated at room temperature and 3 atmospheres pressure for 3 hours to yield N-(N'-methylcarbamoyl)-N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine.

reactant | N-(N'-methylcarbamoyl)-N-benzyloxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | 1.0 g | CNC(=O)N(OCC1=CC=CC=C1)C(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C23H27N3O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(N'-methylcarbamoyl)-N-hydroxy-1-[1-(2,6-dimethylphenyl)-1H-pyrrol-3-yl]-ethylamine | CNC(=O)N(O)C(C)C1=CN(C=C1)C1=C(C=CC=C1C)C | C16H21N3O2
